US07199135B2
A solution of tert-butyl 4-(2-methoxy-5-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate (1.30 g, 3.90 mmol) and 10% Pd/C (200.0 mg) in MeOH:EtOAc (1:4, 100 mL) was hydrogenated at room temperature for 72 h using the hydrogen balloon method. The reaction mixture was filtered through Celite and washed with ethanol (3×100 mL). The combined organic filtrates were concentrated in vacuo to afford tert-butyl 4-[5-amino-2-methoxyphenyl]-1-piperidinecarboxylate (1.00 g, 84%): ESMS m/e: 307.2 (M+H)+.

reactant | tert-butyl 4-(2-methoxy-5-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 3.90 mmol, 1.30 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH EtOAc | 100 mL | CO.CCOC(=O)C
catalyst | Pd/C | 200.0 mg | [Pd] | Pd
product | tert-butyl 4-[5-amino-2-methoxyphenyl]-1-piperidinecarboxylate | 1.00 g, 84% | NC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C17H26N2O3
